Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Two episodes of urinary incontinence
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ right-handed man with history notable
for likely primary progressive multiple sclerosis (on
ocrelizumab), migraines, and depression presenting with two
episodes of urinary incontinence.

Three days prior to presentation, while walking home from work,
Mr. ___ reports experiencing a sudden urge to void, following
which he uncontrollably emptied his bladder. He continued to 
have
some lower abdominal discomfort following this episode, a 
feeling
that he compares to having a full bladder, but was unable to
further empty his bladder on returning home. He otherwise
remained asymptomatic until earlier today, where he experienced 
a
similar episode while walking home. He denies significant
abdominal pressure or valsalva associated with either episode,
and denies back or leg pain, saddle anesthesia, gait 
disturbance,
or sensory disturbance. He also denies recent back trauma or
changes in medications.

With respect to Mr. ___ multiple sclerosis history, he was
initially seen by Dr. ___ in ___ for migraine and
cervicogenic headaches; cervical spine imaging at that time
demonstrated T2 hyperintensities, with additional 
periventricular
lesions noted on follow-up brain MRI. Lumbar puncture
subsequently demonstrated 6 oligoclonal bands. Although he
remained without clinical exacerbations, he was noted to have 
new
lesions on follow-up imaging in ___, and was ultimately started
on interferon beta-1a, which he did not tolerate due to the need
for injections; he was then transitioned to fingolimod while he
transitioned his care to ___, prior to transitioning care back 
to
___ with Dr. ___ started him on ocrelizumab (with his
last infusion in ___ at ___). His prior MS-related symptoms 
have
been noted to include imbalance, migraines, possible knee pain,
and fecal incontinence.

On review of systems, aside from the above, Mr. ___ reports
decreased appetite and upper respiratory symptoms for the past
three weeks, but otherwise denies recent speech disturbance,
vision change, diplopia, dysarthria, dysphagia, focal weakness,
paresthesiae, bowel incontinence, gait disturbance, fevers,
chills, nausea, vomiting, chest discomfort, abdominal pain, or
changes in bowel or bladder habits.
 
Past Medical History:
Primary progressive multiple sclerosis (on ocrelizumab)
Migraines
Depression   
Eczema
 
Social History:
___
Family History:
Reports one maternal cousin with MS, otherwise without 
neurologic
disorders.
 
Physical Exam:
PHYSICAL EXAMINATION:
 Vitals: T: 97.9  P: 76  R: 16  BP: 158/101  SpO2: 99% RA
 General: Awake, cooperative, in NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM.
 Neck: Supple.
 Pulmonary: No tachypnea or increased WOB.
 Cardiac: Warm, well-perfused.
 Abdomen: Soft, NT/ND.
 Extremities: No ___ edema.
 Skin: No rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact comprehension and
naming. Able to read without difficulty. Able to follow midline
and appendicular commands. No apparent hemineglect.

-Cranial Nerves:
 II, III, IV, VI: PERRL 4 to 2 ___ without rAPD or red
desaturation. EOMI without nystagmus. VFF to confrontation. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to conversation.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii bilaterally.
 XII: Tongue protrudes in midline with good excursions.

-Motor: No pronator drift bilaterally. Fast finger taps
bilaterally.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA
 L  5    ___   ___  5   5    5  5 
 R  5    ___   ___  5   5    5  5 

-Sensory: No deficits to light touch or pinprick throughout. No
extinction to DSS. Negative Romberg.

-DTRs:
   Bi Tri ___ Pat Ach
 L  1  1    1    1   1
 R  1  1    1    1   1

-Coordination: No intention tremor or dysmetria on FNF or HKS
bilaterally.

-Gait: Narrow-based and steady though mildly unsteady on tandem
gait.

DAY OF DISCHARGE:
=================
24 HR Data (last updated ___ @ 755)
Temp: 97.9 (Tm 98.5), BP: 125/75 (125-150/75-94), HR: 75 
(72-75),
RR: 16 (___), O2 sat: 99% (98-99), O2 delivery: RA  

 General: Awake, cooperative, in NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM.
 Neck: Supple.
 Pulmonary: No tachypnea or increased WOB.
 Cardiac: Warm, well-perfused.
 Abdomen: Soft, NT/ND.
 Extremities: No ___ edema.
 Skin: No rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact comprehension and
naming. On admission, able to read without difficulty. Able to
follow midline and appendicular commands. No apparent
hemineglect.

-Cranial Nerves:
 II, III, IV, VI: PERRL 5 to 3 ___ without rAPD or red
desaturation. EOMI without nystagmus. VFF to confrontation. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to conversation.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii bilaterally.
 XII: Tongue protrudes in midline with good excursions.

-Motor: No pronator drift bilaterally. Fast finger taps
bilaterally.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA
 L  5    ___   ___  5   5    5  5 
 R  5    ___   ___  5   5    5  5 

-Sensory: No deficits to light touch throughout. Pinpick on
abdomen decreased below umbilicus, on back decreased below T4 
but
then sharpness increased as pinprick continued down back. 
Reports
feet feel pinprick more than No extinction to DSS. 
Proprioception
intact to large and small amplitude in ___ index fingers and 
large
toes. On admission, negative Romberg.

-DTRs: + pec jerk, toes flexor bilaterally
   Bi Tri ___ Pat Ach
 L  2  1    1    2   1
 R  2  1    1    2   1

-Coordination: No intention tremor or dysmetria on FNF or HKS
bilaterally.

-Gait: Narrow-based and steady though mildly unsteady on tandem
gait.

 
Pertinent Results:
___ 09:56PM BLOOD WBC-4.1 RBC-5.02 Hgb-14.9 Hct-43.9 MCV-88 
MCH-29.7 MCHC-33.9 RDW-12.1 RDWSD-38.5 Plt ___
___ 09:56PM BLOOD Neuts-54.6 ___ Monos-7.8 Eos-1.9 
Baso-0.7 Im ___ AbsNeut-2.24 AbsLymp-1.43 AbsMono-0.32 
AbsEos-0.08 AbsBaso-0.03
___ 09:56PM BLOOD ___ PTT-28.8 ___
___ 09:56PM BLOOD Glucose-99 UreaN-11 Creat-1.0 Na-140 
K-3.8 Cl-101 HCO3-24 AnGap-15
___ 09:56PM BLOOD Albumin-4.4 Calcium-9.4 Phos-3.7 Mg-2.1
___ 09:56PM BLOOD ALT-30 AST-21 AlkPhos-55 TotBili-0.2
___ 09:56PM BLOOD Lipase-50
___ 09:56PM BLOOD cTropnT-<0.01
___ 09:56PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 10:35PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

IMAGING:
===========
PVRs:0

MRI brain w/wo: Stable from prior MRI per our read. No areas of 
active inflammation with no contrast enhancement. Final MRI read 
pending. 

MRI C- and T-spine w/ and w/o contrast
IMPRESSION: 
    
1. Stable appearance of cervical demyelinating disease without 
evidence for 
new or enhancing lesions. 
2. Allowing for the large field of view, there is no evidence 
for new or 
enhancing lesions in the thoracic spinal cord.  Prior 
demyelinating lesion at 
T3 appears stable, and prior demyelinating lesion at T9 has 
decreased in size 
compared to ___. 

 
Brief Hospital Course:
Mr. ___ is a ___ right-handed man with history notable
for likely primary progressive multiple sclerosis (on
ocrelizumab), migraines, and depression presenting with two
episodes of urinary incontinence. MRI of his cervical and 
thoracic spine did not show active lesions. The MRI of your 
brain showed no evidence of active lesions on our review and was 
stable from prior. His urinalysis was not indicative on an 
infection. Postvoid residuals measured in hospital were 0. At 
this point the etiology of his urinary incontinence is unclear. 
His neurologic exam throughout hospitalization was notable for 
chronic unsteady gait, and decreased sensation to pinprick in T4 
dermatomal distribution which may have corresponding on prior T 
spine lesions.

During hospital admission, he was continued on his home 
medications without change. He will be discharged home with no 
new medications. He should follow up with his outpatient 
Neurologist, Dr. ___ further management. 

==========================

TRANSITIONAL ISSUES:
- Follow up with Dr. ___ continued ___ of primary 
progressive multiple sclerosis
- Patient is using a fair amount of sumatriptan -- reports using 
sumatriptan about 9 days a month, and some of those days takes 2 
tabs in one day - educated him about reduction. 
- Follow up with PCP for management of chronic medical issues
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Naproxen 500 mg PO BID:PRN Pain - Moderate 
2. Sertraline 50 mg PO DAILY 
3. Sumatriptan Succinate 25 mg PO DAILY:PRN Migraine 
4. TraZODone 50 mg PO BEDTIME 
5. Vitamin D ___ UNIT PO DAILY 
6. Loratadine 10 mg PO DAILY:PRN Allergies 
7. ocrelizumab . unknown intravenous Q6 months 

 
Discharge Medications:
1.  Loratadine 10 mg PO DAILY:PRN Allergies  
2.  Naproxen 500 mg PO BID:PRN Pain - Moderate  
3.  Ocrelizumab . unknown intravenous Q6 MONTHS  
4.  Sertraline 50 mg PO DAILY  
5.  Sumatriptan Succinate 25 mg PO DAILY:PRN Migraine  
6.  TraZODone 75 mg PO BEDTIME  
7.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Progressive Multiple Sclerosis
Urinary incontinence of unclear etiology 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to urinary incontinence that was 
initially concerning for a multiple sclerosis flair. The MRI of 
your cervical and thoracic spine did not show active lesions. 
The MRI of your brain did not show any significant changes 
either on our review.  It will be important that you continue 
with your outpatient follow up and disease modifying therapy.

Please call Dr. ___ for an appointment. His office 
number: ___ 

Please remember to not use Sumatriptan more than ___ times per 
week. 

Please take your medications as prescribed, no changes were made 
to your medications at this time.  

Please follow up with Neurology and your primary care physician. 

  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body 
 
 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___